US05153203
7-(3-Pyrrolidinyloxy)-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid hydrochloride (Compound No. 10)
Ethyl 7-(1-t-butoxycarbonyl-3-pyrrolidinyloxy)-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate (220 mg), 0.7 ml of concentrated hydrochloric acid and 2.8 ml of acetic acid were used. The ester was treated in a similar manner to Example 1-(2) and recrystallized from ethanol, whereby 80 mg of the title compound was obtained.

reactant | Ethyl 7-(1-t-butoxycarbonyl-3-pyrrolidinyloxy)-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate | 220 mg | C(C)(C)(C)OC(=O)N1CC(CC1)OC1=C(C=C2C(C(=CN(C2=N1)C1=C(C=C(C=C1)F)F)C(=O)OCC)=O)F | C26H26F3N3O6
reactant | hydrochloric acid | 0.7 ml | Cl | ClH
solvent | acetic acid | 2.8 ml | C(C)(=O)O | C2H4O2
product | 7-(3-Pyrrolidinyloxy)-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid hydrochloride | 80 mg | Cl.N1CC(CC1)OC1=C(C=C2C(C(=CN(C2=N1)C1=C(C=C(C=C1)F)F)C(=O)O)=O)F | InChI=1S/C19H14F3N3O4.ClH/c20-9-1-2-15(13(21)5-9)25-8-12(19(27)28)16(26)11-6-14(22)18(24-17(11)25)29-10-3-4-23-7-10;/h1-2,5-6,8,10,23H,3-4,7H2,(H,27,28);1H
